US07053060B2
To a solution of 5-[2-(benzyloxy)ethyloxy]-2-(4-ethylbenzyl)phenyl β-D-glucopyranoside (0.022 g) in ethanol (1 mL) was added 10% palladium-carbon powder (0.0082 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 1 hour. An insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=6/1) to give 2-(4-ethylbenzyl)-5-(2-hydroxyethyloxy)phenyl β-D-glucopyranoside (0.013 g).

reactant | 5-[2-(benzyloxy)ethyloxy]-2-(4-ethylbenzyl)phenyl β-D-glucopyranoside | 0.022 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)CC1=CC=C(C=C1)CC | C30H36O8
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.0082 g | [C].[Pd]
product | 2-(4-ethylbenzyl)-5-(2-hydroxyethyloxy)phenyl β-D-glucopyranoside | 0.013 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)OCCO)CC1=CC=C(C=C1)CC | C23H30O8
